US07473783B2
To a solution of 5-amino-3-(2-bromophenyl)pyrazole (1.3 g, 5.46 mmol) in THF (20 mL) was added dropwise benzoyl isothiocyanate (0.81 mL, 6.0 mmol). The reaction mixture was stirred at room temperature for 3 hours, then 4 N aqueous solution of NaOH (4 mL) was added, and the reaction mixture was further stirred at 50° C. for 2 hours. The reaction mixture was cooled to room temperature, neutralized to pH 7 with a saturated solution of NH4Cl, and extracted with EtOAc (3×). The combined organic layers were directly purified on silica gel with 0-10% MeOH in CH2Cl2 as eluent to provide 1.62 g (quant.) of [5-(2-bromo-phenyl)-2H-pyrazol-3-yl]-thiourea as a yellowish foam. 1H-NMR (d6-DMSO) δ: 12.8 (broad s, 1H), 10.4 (broad s, 1H), 8.99 (broad s, 1H), 8.52 (broad s, 1H), 7.76 (d, 1H), 7.50 (m, 2H), 7.36 (t, 1H), 6.24 (broad s, 1H).

reactant | 5-amino-3-(2-bromophenyl)pyrazole | 5.46 mmol, 1.3 g | NC1=CC(=NN1)C1=C(C=CC=C1)Br | C9H8BrN3
reactant | benzoyl isothiocyanate | 6.0 mmol, 0.81 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | NaOH | 4 mL | [OH-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [5-(2-bromo-phenyl)-2H-pyrazol-3-yl]-thiourea | 1.62 g | BrC1=C(C=CC=C1)C=1C=C(NN1)NC(=S)N | C10H9BrN4S
